US05663053
2-(8-Cyanooctyl)-4,5-diphenyltriazole (3.0 g) was treated with sulphuric acid (50 ml) and water (50 ml) and the mixture heated at reflux temperature for 4 hours. Water (200 ml) was added and the cooled mixture was extracted with ethyl acetate (3×75 ml), and the organic extracts combined and evaporated to give a solid. Recrystallisation from ethanol and water gave 2-(8-carboxyoctyl)-4,5-diphenyltriazole (2.37 g, 75%) as a white solid m.p. 84-85° C. Found: C, 72.92; H, 7.20; N, 11.07%;

reactant | 2-(8-Cyanooctyl)-4,5-diphenyltriazole | 3.0 g | C(#N)CCCCCCCCN1N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H26N4
reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | Water | 200 ml | O | H2O
reactant | water | 50 ml | O | H2O
product | 2-(8-carboxyoctyl)-4,5-diphenyltriazole | 2.37 g, 75% | C(=O)(O)CCCCCCCCN1N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H27N3O2
